US07456175B2
C-[2-(4-Cyclopentyl-piperazin-1-yl)-pyridin-4-yl]-methylamine
A solution of 2.8 g (11 mmol) 2-(4-cyclopentyl-piperazin-1-yl)-isonicotinonitrile in 10 ml methanol, 15 ml ethyl acetate and 5 ml ammonia was hydrogenated over Raney Nickel with 1 bar hydrogen at 30° C. for 4 h. The mixture was filtered and the residue was washed with 20 ml ethyl acetate three times. After evaporation of the organic phase the residue was purified with preparative HPLC on reversed phase to yield after evaporation of the combined product fractions 1.21 g (42%) of the title compound as yellow solid. (m/e): 261.3 (MH+; 100%).

reactant | 2-(4-cyclopentyl-piperazin-1-yl)-isonicotinonitrile | 11 mmol, 2.8 g | C1(CCCC1)N1CCN(CC1)C=1C=C(C#N)C=CN1 | C15H20N4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ammonia | 5 ml | N | H3N
catalyst | Raney Nickel | [Ni] | Ni
product | C-[2-(4-Cyclopentyl-piperazin-1-yl)-pyridin-4-yl]-methylamine | C1(CCCC1)N1CCN(CC1)C1=NC=CC(=C1)CN | C15H24N4
